US05302720
Treatment of 2-biphenylylisothiocyanate (10.2 g) with a saturated solution of ammonia in ethanol (100 ml) at 10 to 30° for 4 hours and then at 30° C. for 16 hours yielded N-(2-biphenylyl)thiourea (m.p. 183°-184° C.).

reactant | 2-biphenylylisothiocyanate | 10.2 g | C=1(C(=CC=CC1)N=C=S)C1=CC=CC=C1 | C13H9NS
reactant | ammonia | N | H3N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(2-biphenylyl)thiourea | C1(=C(C=CC=C1)NC(=S)N)C1=CC=CC=C1 | C13H12N2S
